US04839355
(c) Ethyl (R)-2-(4-bromo-2,3,5-trifluorobenzoyl)-N-(1-hydroxy-2-propyl)-3-aminopropenoate
was prepared from ethyl 4-bromo-2,3,5-trifluorobenzoylacetate, dimethylformamide and (R)-2-amino-1-propanol by the procedure of Example 1(d) and obtained in 91% yield as an orange oil.

reactant | ethyl 4-bromo-2,3,5-trifluorobenzoylacetate | BrC1=C(C(=C(C(=O)CC(=O)OCC)C=C1F)F)F | C11H8BrF3O3
reactant | (R)-2-amino-1-propanol | N[C@@H](CO)C | C3H9NO
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | Ethyl (R)-2-(4-bromo-2,3,5-trifluorobenzoyl)-N-(1-hydroxy-2-propyl)-3-aminopropenoate | 91% yield | BrC1=C(C(=C(C(=O)C(C(=O)OCC)=CN[C@@H](CO)C)C=C1F)F)F | C15H15BrF3NO4
